US05491145
Production of 6-(2-isopropyl-3-sulfamoyl-1-propoxy)-7-methylimidazo [1,2-b]pyridazine hydrochloride
Using 0.8 g of 6-chloro-7-methylimidazo[1,2-b]pyridazine and 1.29 g of 3-(N,N-dimethylaminomethylene)aminosulfonyl-2-isopropyl-1-propanol, 1.37 gof the title compound was obtained in the same manner as in Examples 14 and

reactant | 6-chloro-7-methylimidazo[1,2-b]pyridazine | 0.8 g | ClC=1C(=CC=2N(N1)C=CN2)C | C7H6ClN3
reactant | 3-(N,N-dimethylaminomethylene)aminosulfonyl-2-isopropyl-1-propanol | 1.29 g | CN(C)C=NS(=O)(=O)CC(CO)C(C)C | C9H20N2O3S
product | 6-(2-isopropyl-3-sulfamoyl-1-propoxy)-7-methylimidazo [1,2-b]pyridazine hydrochloride | Cl.C(C)(C)C(COC=1C(=CC=2N(N1)C=CN2)C)CS(N)(=O)=O | InChI=1S/C13H20N4O3S.ClH/c1-9(2)11(8-21(14,18)19)7-20-13-10(3)6-12-15-4-5-17(12)16-13;/h4-6,9,11H,7-8H2,1-3H3,(H2,14,18,19);1H
